US06057311
a. 1-benzyl-4-tert-butyloxycarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
Ozone was bubbled through a solution of 9-benzyl-2-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (6.0 g, 16.6 mmol) in methanol (90 ml) at -78° C. until a blue colour persisted. Nitrogen was then bubbled through the solution until clear, followed by the addition of dimethyl sulphide (12.0 ml, 163 mmol). The solution was allowed to warm to room temperature and stirring continued for a further 2 hours, followed by evaporation to dryness. The crude product was purified by chromatography on silica gel with ethyl acetate-hexane (1:1) as eluant. (6.0 g, 92%).

reactant | Ozone | O=[O+][O-] | O3
reactant | 9-benzyl-2-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 16.6 mmol, 6.0 g | C(C1=CC=CC=C1)N1C2=C(C3=CC=CC=C13)CCN(C2)C(=O)OC(C)(C)C | C23H26N2O2
reactant | dimethyl sulphide | 163 mmol, 12.0 ml | CSC | C2H6S
reactant | methanol | 90 ml | CO | CH4O
product | 1-benzyl-4-tert-butyloxycarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)=O)C(=O)OC(C)(C)C)=O | C23H26N2O4
